US04404389
3.9 parts of 4-diethylaminosalicylaldehyde and 4 parts of 2-cyanomethyl-4-phenyl-thiazole in 40 parts by volume of isopropyl alcohol are refluxed with 0.5 part by volume of pyrrolidine for 1 hour. The reaction mixture is then cooled and the precipitate is filtered off and washed. 6.1 parts (81.3% of theory) of 7-diethylamino-3-(4-phenylthiazol-2-yl)-iminocoumarin, of melting point120°-128° C., are obtained.

reactant | 4-diethylaminosalicylaldehyde | C(C)N(C=1C=C(C(C=O)=CC1)O)CC | C11H15NO2
reactant | 2-cyanomethyl-4-phenyl-thiazole | C(#N)CC=1SC=C(N1)C1=CC=CC=C1 | C11H8N2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
product | 7-diethylamino-3-(4-phenylthiazol-2-yl)-iminocoumarin | 81.3% | C(C)N(C1=CC=C2C(C(C(OC2=C1)=O)C=1SC=C(N1)C1=CC=CC=C1)=N)CC | C22H21N3O2S
